US07317021B2
F3. 2,3-Diamino-5-(4-dimethylamino-phenyl)-pyridine
A solution of 3.30 g of 2-amino-5-(4-dimethylaminophenyl)-3-nitro-pyridine (compound G2) and 330 mg of Pd/C (10%) in 260 ml of methanol is treated with hydrogen under vigorous stirring at room temperature for 17 h. The suspension is filtered with suction through a celite pad. The colorless filtrate is evaporated to dryness to afford 2.85 g of the pure title compound of m.p. 155° C. MS: 229.3 (MH+). TLC: Rf=0.38 (dichloromethane/methanol 10:1).

reactant | 2-amino-5-(4-dimethylaminophenyl)-3-nitro-pyridine | 3.30 g | NC1=NC=C(C=C1[N+](=O)[O-])C1=CC=C(C=C1)N(C)C | C13H14N4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 260 ml | CO | CH4O
catalyst | Pd/C | 330 mg | [Pd] | Pd
product | 2,3-Diamino-5-(4-dimethylamino-phenyl)-pyridine | 2.85 g | NC1=NC=C(C=C1N)C1=CC=C(C=C1)N(C)C | C13H16N4
